US08486979B2
2-nitro-5-(3-(pyridin-3-yl)-1,2,4-oxadiazol-5-yl)phenol
The title compound was prepared according to the procedure of Example 8 using N′-hydroxynicotinimidamide (Aldrich) and 3-hydroxy-4-nitrobenzoic acid (Maybridge). 1H NMR (300 MHz, DMSO-d6) δ 6.51 (d, J=9.1 Hz, 1 H), 6.92-7.31 (s (broad), 1 H), 7.61 (ddd, J=7.9, 4.8, 0.8 Hz, 1 H), 7.68 (dd, J=9.1, 2.4 Hz, 1 H), 8.40 (dt, J=7.9, 2.0 Hz, 1 H), 8.53 (d, J=2.4 Hz, 1 H), 8.77 (dd, J=4.8, 1.6 Hz, 1 H), 9.20 (d, J=1.6 Hz, 1 H) ppm; MS (DCI/NH3) m/z 285 (M+H)+.

reactant | N′-hydroxynicotinimidamide | ON=C(C1=CN=CC=C1)N | C6H7N3O
reactant | 3-hydroxy-4-nitrobenzoic acid | OC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C7H5NO5
reactant | NH3 | N | H3N
product | 2-nitro-5-(3-(pyridin-3-yl)-1,2,4-oxadiazol-5-yl)phenol | [N+](=O)([O-])C1=C(C=C(C=C1)C1=NC(=NO1)C=1C=NC=CC1)O | C13H8N4O4
